US04289897
Production of Formyl-acetic acid ethyl ester-ethoxycarbonylhydrazone (3-Ethoxycarbonylhydrazono-propionic acid ethyl ester)
41.6 g (0.4 mole) hydrazinoformic acid ethyl ester are dissolved in 120 ml ethanol in a three necked 250 ml round flask with stirrer and temperature indicator and 39.2 g (0.4 mole) propiolic acid ethyl ester are added. The temperature rises to 30° C. during the addition and is kept constant for another three hours. After standing over night at room temperature the contents is thickened by evaporation at 40° C. in vacuo. The yellow oily residue crystallizes upon grinding. The crystals are ground with a mixture of 60 ml isopropylether and 60 ml cyclohexane, are sucked off, washed with 100 ml cyclohexane and are dried at room temperature in vacuo to constant weight.

reactant | hydrazinoformic acid ethyl ester | 0.4 mole, 41.6 g | C(C)OC(=O)NN | C3H8N2O2
reactant | propiolic acid ethyl ester | 0.4 mole, 39.2 g | C(C)OC(C#C)=O | C5H6O2
reactant | ethanol | 120 ml | C(C)O | C2H6O
product | Formyl-acetic acid ethyl ester-ethoxycarbonylhydrazone | C(C)OC(=O)NN=C(CC=O)OCC | C8H14N2O4
